US04140713
a. 5-Acetyl-2-ethylamino-benzenesulphonamide
A solution of 5-acetyl-2-fluorobenzenesulphonamide (6.0 g) and ethylamine (70% solution in water, 25 ml) in absolute ethanol (100 ml) was heated at 100° for 16 hours in a bomb. The resulting yellow solution was evaporated to small volume to deposit the title compound as an off-white crystalline solid, 6.0 g, m.p. 201°-204° (from ethanol).

reactant | 5-acetyl-2-fluorobenzenesulphonamide | 6.0 g | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)F | C8H8FNO3S
reactant | ethylamine | 25 ml | C(C)N | C2H7N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-Acetyl-2-ethylamino-benzenesulphonamide | C(C)(=O)C=1C=CC(=C(C1)S(=O)(=O)N)NCC | C10H14N2O3S
